US04202802
N-t-butyloxycarbonyl-D-valine
2Thr, 1.88; Ser, 1.22; Gly, 1.06; Ala, 1.17; Val, 1.05; Leu, 1.17; 2Phe, 2.24; 2 Lys, 2.00.

reactant | Gly | NCC(=O)O | C2H5NO2
reactant | Ala | N[C@@H](C)C(=O)O | C3H7NO2
reactant | Val | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | Leu | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | Lys | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
product | N-t-butyloxycarbonyl-D-valine | C(C)(C)(C)OC(=O)N[C@H](C(C)C)C(=O)O | C10H19NO4
